US09447091B2
N-(2′,4′-difluoro-5-(5-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide
To a solution of 2′,4′-difluoro-5-(5-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-amine (60 mg, 0.126 mmol) in DCM was added pyridine (19 mg, 2.52 mmol, 2.0 eq.) followed by ethanesulfonyl chloride (19 mg, 0.152 mmol, 1.2 eq). After completion of the reaction the solvent was distilled off and the crude product was purified by preparative HPLC to give the product in 42% yield (30 mg). 1H NMR (300 MHz, CD3OD): δ 8.92 (s, 1H), 8.3 (d, 1H), 8.06 (s, 1H), 8.0 (s, 1H), 7.95 (s, 1H), 7.88 (s, 1H), 7.77-7.69 (m, 5H), 7.45 (m, 1H), 6.56 (m, 1H), 3.92 (s, 3H), 3.28-3.27 (m, 4H), 1.6-1.49 (m, 6H); LC-MS (ESI): Calculated mass: 564.6; Observed mass: 565.4 [M+H]+ (rt: 1.46 min).

reactant | 2′,4′-difluoro-5-(5-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-amine | 0.126 mmol, 60 mg | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2N=NN(C2)C2CCOCC2)N | C26H22F2N6O
reactant | pyridine | 2.52 mmol, 19 mg, 2.0 eq. | N1=CC=CC=C1 | C5H5N
reactant | ethanesulfonyl chloride | 0.152 mmol, 19 mg, 1.2 eq | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-(2′,4′-difluoro-5-(5-(1-(tetrahydro-2H-pyran-4-yl)-1H-1,2,3-triazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 42% yield | FC1=C(C=CC(=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2N=NN(C2)C2CCOCC2)NS(=O)(=O)CC | C28H26F2N6O3S
